US07135482B2
N-Benzyloxy-1-(2,4-difluorobenzyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxamide
1-[3-(dimethylamino)propyl]-3-ethyl-carbodiimide hydrochloride (EDC, 126 mg, 0.67 mmol) and 1-hydroxybenzotriazole (HOBt, 56 mg, 0.56 mmol) was added to a the stirred solution of 1-(2,4-difluorobenzyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid (70 mg, 0.24 mmol) in DMF (8 mL). The mixture was stirred for 1 h, and then triethylamine (0.33 ml, 2.37 mmol) and O-benzylhydroxylamine (231 mg, 1.80 mmol) were added. The resulting mixture was stirred for 24 h at ambient temperature, and then water (50 mL) was added. The precipitates were collected, and dried to give the title compound (60 mg, 63%). 1H NMR (DMSO-d6) δ; 11.71 (s, 1H), 8.81 (s, 1H), 8.20(s, 1H), 7.74 (s, 1H), 7.15–7.45 (m, 7H), 7.02 (m, 1H), 6.68 (s, 1H), 5.60 (s, 2H), 4.88 (s, 2H). HRMS calcd for C22H18F2N3O2 (M+H) 394.1367. found 394.1388.

reactant | 1-[3-(dimethylamino)propyl]-3-ethyl-carbodiimide hydrochloride | 0.67 mmol, 126 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.56 mmol, 56 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(2,4-difluorobenzyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid | 0.24 mmol, 70 mg | FC1=C(CN2C=CC=3C2=CN=C(C3)C(=O)O)C=CC(=C1)F | C15H10F2N2O2
reactant | triethylamine | 2.37 mmol, 0.33 ml | C(C)N(CC)CC | C6H15N
reactant | O-benzylhydroxylamine | 1.80 mmol, 231 mg | C(C1=CC=CC=C1)ON | C7H9NO
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | water | 50 mL | O | H2O
product | N-Benzyloxy-1-(2,4-difluorobenzyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxamide | 60 mg, 63% | C(C1=CC=CC=C1)ONC(=O)C=1C=C2C(=CN1)N(C=C2)CC2=C(C=C(C=C2)F)F | C22H17F2N3O2
